US06762205B1
The procedure of Example 40 was repeated, except that 1.43 g of 4-aminobenzonitrile was used in place of aniline, and 1.57 g of 2-thiophenecarbaldehyde was used in place of 4-formyl-phenyl sulfamate. The resulting crude product was purified by silica gel column chromatography (using a 2:1 mixture of hexane and ethyl acetate as the eluent) to obtain 0.98 g of 4-[N-(2-thenyl)amino]-benzonitrile.

reactant | 4-aminobenzonitrile | 1.43 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2-thiophenecarbaldehyde | 1.57 g | S1C(=CC=C1)C=O | C5H4OS
product | 4-[N-(2-thenyl)amino]-benzonitrile | 0.98 g | C1(=CC=CS1)CNC1=CC=C(C#N)C=C1 | C12H10N2S
